US04110457
The starting material is prepared as follows: The mixture of 6 g of dl-4-(2-pyridylmethoxy)-amphetamine, 10.9 g of 3,3-diphenylpropionic anhydride, 80 ml of benzene and 2 drops of concentrated sulphuric acid is heated at reflux for 18 hours. The cooled mixture is washed with aqueous sodium bicarbonate and water, dried and evaporated, to yield the dl-1-[4-(2-pyridylmethoxy)phenyl]-2-(3,3-diphenylpropionamido)-propane.

reactant | 4-(2-pyridylmethoxy)-amphetamine | N1=C(C=CC=C1)COC1=CC=C(CC(N)C)C=C1 | C15H18N2O
reactant | 3,3-diphenylpropionic anhydride | 10.9 g | C1(=CC=CC=C1)C(CC(=O)OC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C30H26O3
catalyst | sulphuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 1-[4-(2-pyridylmethoxy)phenyl]-2-(3,3-diphenylpropionamido)-propane | N1=C(C=CC=C1)COC1=CC=C(C=C1)CC(C)NC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H30N2O2
